US07273871B2
3-(1-Propyl-butylamino)-propionic acid ethyl ester
To a 12 L 3-neck flask equipped with a mechanical stirrer and nitrogen inlet was charged 400 g (2.6 mol) of β-alanine, 2250 L of dichloromethane and 2.3 L of ethanol. Agitation was begun and 1.09 L (7.8 mol, 3 eq) of triethyl amine and 364 mL (2.6 mol, 1 eq) of 4-heptanone were added. The mixture was cooled to <10° C. and 1.65 Kg (7.8 mol, 3 eq) of sodium triacetoxy borohydride. Mixture kept <15° C. and stirred for 24 hrs.

reactant | β-alanine | 2.6 mol, 400 g | NCCC(=O)O | C3H7NO2
reactant | triethyl amine | 7.8 mol, 1.09 L, 3 eq | C(C)N(CC)CC | C6H15N
reactant | 4-heptanone | 2.6 mol, 364 mL, 1 eq | CCCC(CCC)=O | C7H14O
reactant | sodium triacetoxy borohydride | 7.8 mol, 1.65 Kg, 3 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | ethanol | 2.3 L | C(C)O | C2H6O
solvent | dichloromethane | 2250 L | ClCCl | CH2Cl2
product | 3-(1-Propyl-butylamino)-propionic acid ethyl ester | C(C)OC(CCNC(CCC)CCC)=O | C12H25NO2
